US20010020310A1
2.2 g of 2,5,6,7-tetramethyl-3-nitropyrazolo[1,5-a]pyrimidine, 40 cc of ethanol and 1 g of ammonium chloride were introduced into a 100 ml three-necked round-bottomed flask fitted with a magnetic stirrer, a condenser and a thermometer. The medium was brought to reflux, and 2.5 g of zinc powder were added in small portions in order to maintain the reflux. After 0.5 hour of refluxing, the zinciferous sludges were filtered. The filtrate was concentrated until it crystallized. The crystals were filtered off. Drying under vacuum and over phosphoric anhydride yielded 2 g of 2,5,6,7-tetramethylpyrazolo[1,5-a]pyrimidin-3-ylamine hydrochloride (yield=88.2%).

reactant | 2,5,6,7-tetramethyl-3-nitropyrazolo[1,5-a]pyrimidine | 2.2 g | CC1=NN2C(N=C(C(=C2C)C)C)=C1[N+](=O)[O-] | C10H12N4O2
reactant | ammonium chloride | 1 g | [Cl-].[NH4+]
catalyst | zinc | 2.5 g | [Zn] | Zn
solvent | ethanol | 40 cc | C(C)O | C2H6O
product | 2,5,6,7-tetramethylpyrazolo[1,5-a]pyrimidin-3-ylamine hydrochloride | 2 g, yield=88.2% | Cl.CC1=NN2C(N=C(C(=C2C)C)C)=C1N | InChI=1S/C10H14N4.ClH/c1-5-6(2)12-10-9(11)7(3)13-14(10)8(5)4;/h11H2,1-4H3;1H
